US06569885B1
Preparation of 3,5-Dimethyl-1-pyridin-2-yl-1H-pyrazole-4-carboxylic Acid Ethyl Ester
Similar to Example 1, 2-pyridylhydrazine (7.5 mmol, 0.8 g) and 2-acetyl-3-oxo-butyric acid ethyl ester (7.5 mmol, 1.3 g) were mixed in a solution of 50% pyridine in ethanol, then heated under reflux. The solvents were removed under vacuum and the residue purified over silica. The named product crystallized upon standing (m.p. 49° C.-50° C.).

reactant | 2-pyridylhydrazine | 7.5 mmol, 0.8 g | N1=C(C=CC=C1)NN | C5H7N3
reactant | 2-acetyl-3-oxo-butyric acid ethyl ester | 7.5 mmol, 1.3 g | C(C)OC(C(C(C)=O)C(C)=O)=O | C8H12O4
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | ethanol | C(C)O | C2H6O
product | 3,5-Dimethyl-1-pyridin-2-yl-1H-pyrazole-4-carboxylic Acid Ethyl Ester | C(C)OC(=O)C=1C(=NN(C1C)C1=NC=CC=C1)C | C13H15N3O2
